US09034866B2
Synthesis of (±)-10-(3-(1,2-dimethyl-1H-imidazol-4-yl)-3-hydroxybut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-(1,2-dimethyl-1H-imidazol-4-yl)but-3-yn-2-ol to give the titled compound as a colorless solid (5 mg, 4%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 2-(1,2-dimethyl-1H-imidazol-4-yl)but-3-yn-2-ol | CN1C(=NC(=C1)C(C)(C#C)O)C | C9H12N2O
product | (±)-10-(3-(1,2-dimethyl-1H-imidazol-4-yl)-3-hydroxybut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 5 mg, 4% | CN1C(=NC(=C1)C(C#CC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F)(C)O)C | C21H20FN5O3
